US04181677
2-(p-Fluorobenzoyl)-3-methylaminocrotononitrile
The procedure of Example 15 is repeated substituting an equimolecular amount of 2-(p-fluorobenzoyl)-3-methoxycrotononitrile for the 2-benzoyl-3-methoxycrotononitrile employed in that example. There is thus obtained the title compound after purification by column chromatography.

reactant | 2-(p-fluorobenzoyl)-3-methoxycrotononitrile | FC1=CC=C(C(=O)/C(/C#N)=C(\C)/OC)C=C1 | C12H10FNO2
reactant | 2-benzoyl-3-methoxycrotononitrile | C(C1=CC=CC=C1)(=O)/C(/C#N)=C(\C)/OC | C12H11NO2
product | 2-(p-Fluorobenzoyl)-3-methylaminocrotononitrile | FC1=CC=C(C(=O)/C(/C#N)=C(\C)/NC)C=C1 | C12H11FN2O
